US06642229B2
A suspension of 2-bromophenylhydrazine hydrochloride (5.0 g, 22 mmol) in formamide (10 ml) was heated at 140° C. for 16 h. The reaction mixture was cooled to ambient temperature, diluted into dichloromethane (50 ml) and washed with water (3×20 ml). The organic phase was dried over anhydrous magnesium sulfate, filtered and evaporated to dryness. Purification by chromatography on silica gel eluting with dichloromethane gave 1-(2-bromophenyl)-1H-[1,2,4]triazole (4.80 g) as a tan solid: δH (400 MHz, CDCl3) 8.49 (1H, s), 8.14 (1H, s), 7.76 (1H, dd, J 1 and 8), 7.44-7.53 (2H, m), 7.34-7.39 (1H, m).

reactant | 2-bromophenylhydrazine hydrochloride | 22 mmol, 5.0 g | Cl.BrC1=C(C=CC=C1)NN
reactant | dichloromethane | 50 ml | ClCCl | CH2Cl2
reactant | formamide | 10 ml | C(=O)N | CH3NO
product | 1-(2-bromophenyl)-1H-[1,2,4]triazole | 4.80 g | BrC1=C(C=CC=C1)N1N=CN=C1 | C8H6BrN3
